US05486466
A mixture of 1.90 g of 2,2,2-trichloroethyl 3,5-diacetoxy-6-[[((R)-2-[(S)-2-(1-t-butoxyformamido)-3-hydroxypropionamido]-2-(methoxycarbonyl)ethyl]thio]methyl]-2-methylbenzoate, 50 ml of tetrahydrofuran, 12.5 ml of 1M phosphoric acid, 12.5 ml of 1M aqueous sodium dihydrogen phosphate solution and 3.2 g of zinc powder was stirred at 20° C. for 1.2 hours. The mixture was filtered, and the unsoluble material was washed with water and ethyl acetate. The filtrate was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate and evaporated in vacuo to afford 3,5-diacetoxy-6-[[[(R)-2-((S)-2-(1-t-butoxyformamido)-3-hydroxypropionamido]-2-(methoxycarbonyl)ethyl]thio]methyl]-2-methylbenzoic acid as a solidifying oil.

reactant | 2,2,2-trichloroethyl 3,5-diacetoxy-6-[[((R)-2-[(S)-2-(1-t-butoxyformamido)-3-hydroxypropionamido]-2-(methoxycarbonyl)ethyl]thio]methyl]-2-methylbenzoate | 1.90 g | C(C)(=O)OC=1C(=C(C(=O)OCC(Cl)(Cl)Cl)C(=C(C1)OC(C)=O)CSC[C@@H](C(=O)OC)NC([C@H](CO)NC(=O)OC(C)(C)C)=O)C | C27H35Cl3N2O12S
reactant | phosphoric acid | 1M, 12.5 ml | P(O)(O)(O)=O | H3O4P
reactant | sodium dihydrogen phosphate | 1M, 12.5 ml | P(=O)(O)(O)[O-].[Na+]
catalyst | zinc | 3.2 g | [Zn] | Zn
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,5-diacetoxy-6-[[[(R)-2-((S)-2-(1-t-butoxyformamido)-3-hydroxypropionamido]-2-(methoxycarbonyl)ethyl]thio]methyl]-2-methylbenzoic acid | C(C)(=O)OC=1C(=C(C(=O)O)C(=C(C1)OC(C)=O)CSC[C@@H](C(=O)OC)NC([C@H](CO)NC(=O)OC(C)(C)C)=O)C | C25H34N2O12S
